US06133271
With the procedure of Example 477, the reaction of 2-cyanopyrazine and 2-amino-4,5-dimethyl-3-ethoxycarbonyl-thiophene, and the subsequent reaction with POCl3 yields 4-chloro-2-(pyrazin-2-yl)-5,6-dimethyl-thieno-[2,3-d]-pyrimidine

reactant | 2-cyanopyrazine | C(#N)C1=NC=CN=C1 | C5H3N3
reactant | 2-amino-4,5-dimethyl-3-ethoxycarbonyl-thiophene | NC=1SC(=C(C1C(=O)OCC)C)C | C9H13NO2S
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-(pyrazin-2-yl)-5,6-dimethyl-thieno-[2,3-d]-pyrimidine | ClC=1C2=C(N=C(N1)C1=NC=CN=C1)SC(=C2C)C | C12H9ClN4S
